US06946473B2
N-Methyl-4-fluorobenzenesulfonamide
A mixture of 125 ml of methylamine (0.25 molar) in tetrahydrofuran and 13.9 ml (0.10 mol) of triethylamine was chilled in an ice bath. To this chilled solution was added dropwise 19.4 g (0.10 mol) of 4-fluorobenzenesulfonyl chloride in 150 ml of CH2Cl2 was added and the mixture refluxed for 2 hours and then stirred overnight at room temperature. The mixture was with CH2Cl2, washed with H2O, 2N citric acid, brine and dried (Na2SO4). The solution was filtered through a pad of hydrous magnesium silicate and the filtrate concentrated to dryness under vacuum to give 18.0 g of white solid, mp 67-70° C.

reactant | methylamine | 0.25 molar, 125 ml | CN | CH5N
reactant | triethylamine | 0.10 mol, 13.9 ml | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzenesulfonyl chloride | 0.10 mol, 19.4 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | N-Methyl-4-fluorobenzenesulfonamide | 18.0 g | CNS(=O)(=O)C1=CC=C(C=C1)F | C7H8FNO2S
